US06787651B2
Ethyl 5-(benzyloxy)-3-bromo-1-(3-methoxybenzyl)-1H-indole-2-carboxylate
Powdered potassium carbonate (2.79 g, 20.2 mmol) and 3-methoxybenzyl bromide (2.03 g, 10.1 mmol) were added successively to a stirred solution of ethyl 5-(benzyloxy)-3-bromo-1H-indole-2-carboxylate, Lit. WO96/18393 (3.63 g, 9.70 mmol) in N,N-dimethylformamide (20 mL). The reaction was stirred for 23 h and then diluted with water (250 mL). The product was extracted with ethyl acetate (3×100 mL) and then the combined organic extracts were washed with brine, dried over anhydrous magnesium sulfate, and concentrated in vacuo. Recrystalization of the residue using methanol afforded 4.03 g (84%) of the desired product. The product had: 1H NMR (300 MHz, CDCl3) δ 7.05-7.91 (m, 9 H), 6.74 (dd, 1 H), 6.53-6.63 (m, 2 H), 5.37 (s, 2 H), 4.37 (q, 2 H), 3.71 (s, 3 H), 1.39 (t, 3 H); mass spectroscopy gave MH+=494.1 (calc'd exact mass for C26H24BrNO4=493.09).

reactant | potassium carbonate | 20.2 mmol, 2.79 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-methoxybenzyl bromide | 10.1 mmol, 2.03 g | COC=1C=C(CBr)C=CC1 | C8H9BrO
reactant | ethyl 5-(benzyloxy)-3-bromo-1H-indole-2-carboxylate | C(C1=CC=CC=C1)OC=1C=C2C(=C(NC2=CC1)C(=O)OCC)Br | C18H16BrNO3
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
solvent | water | 250 mL | O | H2O
product | Ethyl 5-(benzyloxy)-3-bromo-1-(3-methoxybenzyl)-1H-indole-2-carboxylate | 4.03 g, 84% | C(C1=CC=CC=C1)OC=1C=C2C(=C(N(C2=CC1)CC1=CC(=CC=C1)OC)C(=O)OCC)Br | C26H24BrNO4
